US07994196B2
Phenyllithium (0.94 M, 27 ml) was dissolved in diethyl ether (50 ml), and the mixture was cooled to −78° C. 1-Benzyl-3-methyl-4-piperidone (KANTO CHEMICAL CO. INC., 5 g) was added, and the mixture was stirred for 2 hr. After completion of the reaction, water was added, and the mixture was extracted three times with ethyl acetate. The organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent: hexane-ethyl acetate (4:1-0:1)). Phosphoric acid (40 g) and diphosphorus pentoxide (45 g) were added to the obtained oil, and the mixture was stirred with heating at 100° C. for 5 hr. After completion of the reaction, the reaction mixture was poured into water, basified with 1N sodium hydroxide and extracted four times with hexane. The organic layer was washed with water, and dried. The solvent was evaporated under reduced pressure to give a brown oil. The oil was dissolved in 1,2-dichloroethane. The mixture was cooled to 0° C. and 1-chloroethyl chloroformate (857 mg) was added. After heating under reflux for 5 hr, the reaction solution was concentrated. Methanol (10 ml) was added and the mixture was heated under reflux for 2 hr. After completion of the reaction, the reaction mixture was basic (pH=9) with a 1N aqueous sodium hydroxide solution, and extracted three times with chloroform. The organic layer was dried and the solvent was evaporated under reduced pressure to give 5-methyl-4-phenyl-1,2,3,6-tetrahydropyridine (1.00 g, yield 90%).

reactant | Phenyllithium | 0.94 M, 27 ml | C1(=CC=CC=C1)[Li]
reactant | 1-Benzyl-3-methyl-4-piperidone | 5 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 1-chloroethyl chloroformate | 857 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 5-methyl-4-phenyl-1,2,3,6-tetrahydropyridine | 1.00 g, yield 90% | CC1=C(CCNC1)C1=CC=CC=C1 | C12H15N
